Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal Pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ with history of anxiety presenting for re-evaluation for RUQ
and epigastric abdominal pain. Her pain started about 3 weeks
ago, initially in center abdomen but now has migrated to the 
RUQ.
It is persistent but waxing and waning in intensity, sharp, and
worsened by food intake. She has had a T of 99 at home and
reports waking up drenched in sweat every morning the past week.
Reports intermittent bloody stools, with an episode of black
tarry stool on ___ followed by diarrhea. Mild diarrhea is 
chronic
for her. Pain was bad enough that she had to defer one college
final and return home early.
Denies nausea, vomiting, urinary symptoms, rash, vaginal
bleeding, current chest pain, chest pressure or dyspnea - though
she did have an episode of chest tightness weeks ago that
resolved. She is sexually active, in a relationship with one
partner, does not always use protection, and is not concerned
about STI. No specific foods trigger her symptoms.

She is followed by a gastroenterologist in ___ (___ 
and
was being worked up for Crohn's. In ___ underwent a capsule
endoscopy, which stopped transmitting midway though but was
unremarkable. She reports having a positive breath test there,
for which she was started on one unknown antibiotic for one 
month
that helped but did not resolve her symptoms. Before she left
school she was given Prilosec and Gas-X but these did not seem 
to
have any
effect. Most recently seen here on ___, where there was
concern for acute cholecystitis. RUQ was obtained and normal.
Labs showed a mild leukocytosis with neutrophil predominance,
mild thrombocytosis and CRP 94.7. Last BM was yesterday. She
reports having lost about 10 lbs (120 -> 110 lbs) in the past
month.

 
Past Medical History:
ADHD
anxiety
concern for IBS/IBD 
___
 
 
Social History:
___
Family History:
no FH of IBD or gallstones
mother with ___, OA
father - CVA 
 
Physical ___:
ADMISSION EXAM
======================
VS: 98.2 PO 108 / 69 R Lying 84 18 96 Ra  
GENERAL: Comfortable, in no acute distress 
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva,
MMM  
NECK: no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
ABDOMEN: soft, nondistended, mild tenderness in RUQ, no
rebound/guarding, no hepatosplenomegaly, negative ___ sign 
EXTREMITIES: no cyanosis, clubbing, or edema   
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: warm and well perfused, no excoriations or lesions, no
rashes 
PSYCH: normal range of affect

DISCHARGE EXAM
=======================
Vitals:  97.7, 117/74, HR 78, RR 16, 99 RA
General: A well appearing ___ year old girl sitting up, 
with Netflix open on her computer
Eyes:  Sclera anicteric
HEENT: MMM   
Resp: Normal work of breathing, equal bilateral chest rise 
GI: Soft and non-distended. Very mild tenderness to palpation 
right upper, not rigid, no guarding. 
 
Pertinent Results:
ADMISSION LABS
=========================
___ 01:44PM BLOOD WBC-10.7* RBC-4.45 Hgb-12.4 Hct-37.8 
MCV-85 MCH-27.9 MCHC-32.8 RDW-13.0 RDWSD-40.3 Plt ___
___ 01:44PM BLOOD Neuts-72.5* Lymphs-17.5* Monos-7.1 
Eos-1.9 Baso-0.5 Im ___ AbsNeut-7.79* AbsLymp-1.88 
AbsMono-0.76 AbsEos-0.20 AbsBaso-0.05
___ 01:44PM BLOOD ___ PTT-31.7 ___
___ 01:44PM BLOOD Glucose-85 UreaN-12 Creat-0.8 Na-139 
K-4.4 Cl-97 HCO3-26 AnGap-16
___ 01:44PM BLOOD ALT-15 AST-16 AlkPhos-87 TotBili-0.3
___ 01:44PM BLOOD Lipase-40
___ 01:44PM BLOOD Albumin-4.4
___ 01:48PM URINE Blood-NEG Nitrite-NEG Protein-TR* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-MOD*

OTHER PERTINENT LABS
=========================
___ 06:39AM BLOOD WBC-9.4 RBC-4.16 Hgb-11.6 Hct-36.1 MCV-87 
MCH-27.9 MCHC-32.1 RDW-13.1 RDWSD-41.1 Plt ___

IMAGING
=========================
CT Abdomen ___
No acute intra-abdominal process to explain patient's abdominal 
pain.  Normal appendix.  No fluid collections within the abdomen 
or pelvis concerning for abscess.

MRE ___
Normal MRE.  Small amount of free fluid in the pelvis.

MICROBIOLGOY
=========================
Urine culture -       GRAM POSITIVE BACTERIA. 
         >100,000 CFU/mL OF TWO COLONIAL MORPHOLOGIES. 
         Alpha hemolytic colonies consistent with alpha 
streptococcus or
         Lactobacillus sp. 

Blood cultures - NGTD at time of d/c
 
Brief Hospital Course:
___ year old female with history of chronic abdominal pain of 
uncertain etiology who presents with persistent abdominal pain, 
elevated inflammatory markers, and leukocytosis.

# Acute on chronic abdominal pain:  Most likely a functional 
abdominal pain based on workup to this point.  Differential 
also includes IBD vs SIBO, though less likely.  PUD/Gastritis 
was considered, and EGD was initially discussed, but clinical 
history does not seem consistent with this.  CT Abdomen was 
reassuring for lack of an acute process.  GI was consulted, and 
per their rec's, she underwent an MRE, which was normal.  She 
has had a rather extensive workup for this in the past, and 
follows with a GI both at ___ and in ___.  She was 
started on Dicyclomine with some positive effect.  She was 
hemodynamically stable and able to tolerate PO throughout the 
admission.  She was discharged with plan for further outpatient 
follow up and care.

# Elevated CRP and WBC:  Unclear significance given the absence 
of any obvious infectious source based on history/exam.  WBC 
normalized by discharge.  CRP has previously been normal per 
___ records.  Urine culture grew likely alpha streptococcus vs 
Lactobacillus, not a likely pathogen given the absence of 
urinary symptoms.  Blood cultures were without growth at the 
time of discharge.

# Anxiety: continued home Zoloft and Bupropion

TRANSITIONAL ISSUES
==========================
- Recommend repeat WBC, CRP, and ESR as an outpatient in ___ 
weeks
- Dicyclomine started this admission for potential benefit in 
functional abdominal pain
- Continued GI follow up both at ___ and in ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Sertraline 100 mg PO DAILY 
2. Concerta (methylphenidate HCl) 36 mg oral DAILY:PRN 
3. MethylPHENIDATE (Ritalin) 10 mg PO DAILY:PRN when at college 
4. BuPROPion XL (Once Daily) 150 mg PO DAILY 

 
Discharge Medications:
1.  DICYCLOMine 20 mg PO QID 
RX *dicyclomine 20 mg 1 tablet(s) by mouth four times daily Disp 
#*120 Tablet Refills:*0 
2.  BuPROPion XL (Once Daily) 150 mg PO DAILY  
3.  Concerta (methylphenidate HCl) 36 mg oral DAILY:PRN  
4.  MethylPHENIDATE (Ritalin) 10 mg PO DAILY:PRN when at college 
 
5.  Sertraline 100 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Abdominal Pain
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Ms. ___,

It was a pleasure caring for you at ___.  You were admitted to 
us for worsening abdominal pain.  You underwent a CT scan in the 
ER, as well as an MRI after admission.  Fortunately, these were 
all negative for evidence of infection or inflammation.  You had 
a mildly elevated white blood count when you came in, but this 
was normal on the day of discharge.  We prescribed a medication 
called Dicyclomine which could be helpful.

We believe that everything else to this point can be followed up 
as an outpatient, with your excellent physicians in GI both here 
and in ___ City.  Please let us know if you have any 
questions about your care.

We wish you the best
- ___ Medicine Team
 
Followup Instructions:
___